US05872115
2-(N'-n-Pentylureido)-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide
{2-amino-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide and n-pentylamine}:yield 29.9%; mp 178°-180° C. (EtOH); 1NMR (DMSO-d6)ppm: 0.86 (3H, t), 1.24-1.83 (13H, m), 2.79 (2H, d), 2.96 (2H, dd), 3.15 (2H, t, ), 4.26 (1H, s), 6.91 (1H, t), 7.13-7.41 (12H, m), 7.57 (1H, d), 8.22 (1H, d), 8.58 (1H, t), 9.93 (1H, s).

reactant | 2-amino-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C26H29N3O
reactant | n-pentylamine | C(CCCC)N | C5H13N
reactant | EtOH | CCO | C2H6O
product | 2-(N'-n-Pentylureido)-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | yield 29.9% | C(CCCC)NC(NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)=O | C32H40N4O2
